* /Users/manoelribeiroalmeida/dev/trit/LTspice/TNAND.asc
.subckt TNAND a b vcc vee out gnd
XU3 a b vcc vee N001 0 TAND
XU4 N001 vcc vee out 0 TNOT
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TAND.sub
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TNOT.sub
.backanno
.ends
